### ISSUE TITLE
adding a function to use gpt-4o-mini

### ISSUE THREAD

**Issue by russellkim** [russellkim/ATP-Error-Case2#2]
### modifying .env  
API=your_upstage_api_key
BASE_URL=https://api.upstage.ai/v1/solar
-> 
**UPSTAGE_API_KEY=your_upstage_api_key
UPSTAGE_BASE_URL=https://api.upstage.ai/v1/solar
OPENAI_API_KEY=your_openai_api_key
OPENAI_BASE_URL=https://api.openai.com/v1**

### modifying get_response function to select various apis. 
https://github.com/Yingjia-Wan/ATP-Error-Case/blob/54d0103b393bc0984e92722606df5af2a1e2ab34/LLM_theorem_proving.py#L24-L25

https://github.com/Yingjia-Wan/ATP-Error-Case/blob/master/common/upstage.py

https://platform.openai.com/docs/guides/text-generation

https://github.com/Yingjia-Wan/ATP-Error-Case/blob/54d0103b393bc0984e92722606df5af2a1e2ab34/LLM_theorem_proving.py#L252

https://github.com/Yingjia-Wan/ATP-Error-Case/blob/54d0103b393bc0984e92722606df5af2a1e2ab34/LLM_theorem_proving.py#L16 

### exception handling
other model names except OPENAI and UPSTAGE

#### for OpenAI api 
`run python LLM_theorem_proving.py --model_name "gpt-4o-mini" --use_api_model`
#### for Upstage api 
`python LLM_theorem_proving.py --model_name "solar-1-mini-chat" --use_api_model`

**Comment by russellkim** [comment]
**Original comment by russellkim**:

Done - https://github.com/Yingjia-Wan/ATP-Error-Case/pull/39

**Comment by russellkim** [comment]
**Original comment by Yingjia-Wan**:

The loading part (`response = get_response(system_message_content, prompt)`) in `generate_proof_from_api` doesn't take model_name as argument, which causes `get_response` to keep using model_name='gpt-4o-mini' regardless of the specified model_name. I updated `LLM_theorem_proving` about how get_response is called by adding model_name as an argument.

I can confirm we can use the OPENAI api model.

```
(ReProver) yingjiawan@skcpu3:~/alisa/error_analysis$ python LLM_theorem_proving.py --model_name "gpt-4o" --use_api_model
Loaded minif2f dataset.
Loaded demo examples.
sample= {'id': 'mathd_algebra_478', 'split': 'test', 'formal_statement': 'theorem mathd_algebra_478\n  (b h v : ℝ)\n  (h₀ : 0 < b ∧ 0 < h ∧ 0 < v)\n  (h₁ : v = 1 / 3 * (b * h))\n  (h₂ : b = 30)\n  (h₃ : h = 13 / 2) :\n  v = 65 := sorry', 'header': 'import Mathlib.Algebra.BigOperators.Basic\nimport Mathlib.Data.Real.Basic\nimport Mathlib.Data.Complex.Basic\nimport Mathlib.Data.Nat.Log\nimport Mathlib.Data.Complex.Exponential\nimport Mathlib.NumberTheory.Divisors\nimport Mathlib.Data.ZMod.Defs\nimport Mathlib.Data.ZMod.Basic\nimport Mathlib.Topology.Basic\nimport Mathlib.Data.Nat.Digits\n\nopen BigOperators\nopen Real\nopen Nat\nopen Topology', 'informal_stmt': 'The volume of a cone is given by the formula $V = \\frac{1}{3}Bh$, where $B$ is the area of the base and $h$ is the height. The area of the base of a cone is 30 square units, and its height is 6.5 units. What is the number of cubic units in its volume? Show that it is 65.', 'informal_proof': 'We are given that $B = 30$ and $h = 6.5$ and asked to find $\\frac{1}{3}Bh$.  We find that \\[\\frac{1}{3}Bh = \\frac{1}{3}(30)(6.5) = (10)(6.5) = 65.\\]'}
***********************Proving theorem 0:*************************
Theorem name: mathd_algebra_478

header= 
 import Mathlib.Algebra.BigOperators.Option
import Mathlib.Data.Real.Basic
import Mathlib.Data.Complex.Basic
import Mathlib.Data.Nat.Log
import Mathlib.Data.Complex.Exponential
import Mathlib.NumberTheory.Divisors
import Mathlib.Data.ZMod.Defs
import Mathlib.Data.ZMod.Basic
import Mathlib.Topology.Basic
import Mathlib.Data.Nat.Digits

open BigOperators
open Real
open Nat
open Topology 

Using API model: gpt-4o
Got api_key=sk-nvqIbonVsvNQn97t88Ef1a41C46c40F59a107d6dBb29Ad35
Got base_url=https://api.xiaoai.plus/v1
_proof=[[[[[[

theorem mathd_algebra_478
  (b h v : ℝ)
  (h₀ : 0 < b ∧ 0 < h ∧ 0 < v)
  (h₁ : v = 1 / 3 * (b * h))
  (h₂ : b = 30)
  (h₃ : h = 13 / 2) :
  v = 65 := by
  rw [h₂, h₃] at h₁
  calc
    v = 1 / 3 * (30 * (13 / 2)) := by rw [h₁]
    _ = 1 / 3 * 195 := by norm_num
    _ = 195 / 3 := by rw [mul_div_assoc]
    _ = 65 := by norm_num

]]]]]]
## Generated proof:

theorem mathd_algebra_478
  (b h v : ℝ)
  (h₀ : 0 < b ∧ 0 < h ∧ 0 < v)
  (h₁ : v = 1 / 3 * (b * h))
  (h₂ : b = 30)
  (h₃ : h = 13 / 2) :
  v = 65 := by
  rw [h₂, h₃] at h₁
  calc
    v = 1 / 3 * (30 * (13 / 2)) := by rw [h₁]
    _ = 1 / 3 * 195 := by norm_num
    _ = 195 / 3 := by rw [mul_div_assoc]
    _ = 65 := by norm_num

lean_file= output/output_hf/tocompile/mathd_algebra_478.lean

-------------------Compiler Result------------------

in compile_with_lean :  output/output_hf/tocompile/mathd_algebra_478.lean
output:
 
result: Failure

Total theorems processed: 1
Failed theorems: 1
Error rate: 100.00%
```
